US07622583B2
To Fe powder (61.3 mg, 1.09 mmol), AcOH (2 mL) was added dropwise and heated to 80° C. To it, a solution of 4-chloro-N-[2-(2-chloro-5-nitro-benzoyl)-5-methyl-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide (136 mg, 0.255 mmol) in AcOH (2 mL) was added slowly. After 30 min, reaction mixture was allowed to cool to room temperature and diluted with EtOAc (25 mL), filtered through a pad of Celite. The filter cake was washed with EtOAc (25 mL) and the filtrate was concentrated. The residual liquid was slowly treated with saturated aqueous NaHCO3 solution, followed by small portions of solid NaHCO3 to neutralize the AcOH, extracted with EtOAc (2×25 mL) and the extracts were dried (anhydrous Na2SO4), concentrated under reduced pressure and purified (SiO2, EtOAc) to get N-[2-(5-amino-2-chloro-benzoyl)-5-methyl-pyridin-3-yl]-4-chloro-3-trifluoromethyl-benzenesulfonamide (118 mg) in 92.2% yield. ESMS m/z (relative intensity): 504 (M+H)+ (100).

reactant | 4-chloro-N-[2-(2-chloro-5-nitro-benzoyl)-5-methyl-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 0.255 mmol, 136 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)C)C(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O)C(F)(F)F | C20H12Cl2F3N3O5S
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Fe | 1.09 mmol, 61.3 mg | [Fe] | Fe
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | N-[2-(5-amino-2-chloro-benzoyl)-5-methyl-pyridin-3-yl]-4-chloro-3-trifluoromethyl-benzenesulfonamide | 118 mg, 92.2% yield | NC=1C=CC(=C(C(=O)C2=NC=C(C=C2NS(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)C)C1)Cl | C20H14Cl2F3N3O3S
